US08912329B2
2-(Pyridin-4-yl)morpholine is prepared by treating 2-(2-hydroxyethylamino)-1-(pyridin-4-yl)ethanol with fuming sulfuric acid at 170° C. according to F. Zymalkowski and F. Koppe (Arch. Pharmaz. 1961, 294, 453-468).

reactant | 2-(2-hydroxyethylamino)-1-(pyridin-4-yl)ethanol | OCCNCC(O)C1=CC=NC=C1 | C9H14N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(Pyridin-4-yl)morpholine | N1=CC=C(C=C1)C1CNCCO1 | C9H12N2O
